US04873236
(+)-9-Chloro-11-[[[2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and (+)-2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine in a yield of 50% of theory. Colourless crystals, m.p. 169°-170° C. (from acetonitrile, using activated charcoal); [α]D20 =+11.88° (dilute hydrochloric acid).

reactant | 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
reactant | (+)-2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
reactant | charcoal | C | CH4
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | (+)-9-Chloro-11-[[[2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 50% | ClC1=CC2=C(C(NC3=C(N2C(=O)NCCN2C(CCCC2)CN(CC)CC)N=CC=C3)=O)C=C1 | C25H33ClN6O2
